Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
Peristomal skin irritation
 
Major Surgical or Invasive Procedure:
Takedown of ileostomy
 
History of Present Illness:
Pt is a ___ with a hx of diverticulitis and colovesicular 
fistula discovered on pre-operative workup for repair of a known 
TAA (___) who then underwent takedown of her fistula, 
sigmoid colectomy and diverting loop ileostomy ___ and who 
presents to ___ ED today with peristomal skin irritation.  Of 
note: pt is scheduled for ileostomy takedown ___.  Pt was 
seen in ___ clinic and by the Wound care team 
approximately one week ago when the irritation was mild.  She 
was advised to keep the appliance opening flush with the stoma 
to prevent leakage of stool onto surrounding skin.  However, 
over the past three days the pt has noted worsening irritation 
and profuse clear serous oozing which has made it impossible to 
keep an appliance on.  She has been holding a dry washcloth to 
the stoma for the past three days and has been largely immobile. 
 She did have a low-grade temp to ___ yesterday but otherwise 
denies signs and sxs of infection.  Denies CP, SOB, abdominal 
pain, nausea, change in bowel habits, bloody stool.  

ROS:
(+) per HPI
(-) Denies fevers, chills, night sweats, unexplained weight 
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with sleep, jaundice, bleeding, easy bruising, headache, 
dizziness, vertigo, syncope, weakness, paresthesias, nausea, 
vomiting, hematemesis, bloating, cramping, melena, BRBPR, 
dysphagia, chest pain, shortness of breath, cough, edema, 
urinary frequency,
urgency

 
Past Medical History:
Past Medical History: Thoracic Aortic Aneurysm (followed by Dr.
___, Hypertension, Dyslipidemia, Colonic polyps, Renal
Insufficiency Cr 1.45, Ischemic CVA ___, COPD/Asthma, Uterine
cancer, Right Lung Nodule, Giant Cell Arteritis/Polymyalgia
Rheumatica (s/p steroid taper?), Obesity, Elevated HgbA1c while
on steroids, Hypothyroidism, History of + PPD w/lung nodule
(followed by Dr. ___, Elevated CRP  

Past Surgical History: sigmoid colectomy/coloproctostomy/loop
ileostomy ___, Total Abd Hysterectomy, Temporal artery
biopsy, Tonsillectomy, C-Sxn x1 

 
Social History:
___
Family History:
Mother with abdominal aortic aneurysm
No history of colorectal cancer
 
Physical Exam:
On admission:
Vitals: Pain ___ T 96.8; HR 62; BP 129/54; RR 16; POx 97% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Obese, soft, nondistended, no rebound or guarding,
normoactive bowel sounds, no palpable masses. Stoma in the RLQ 
is
pink and functional.  The skin around the stoma is excoriated in
the exact distribution of the adhesive stoma appliance (circular
approx 9x9cm) and is oozing clear serous fluid. The area is not
indurated and there is no evidence of soft tissue infection, no
fluctuance or appreciable collection.
Ext: No ___ edema, ___ warm and well perfused

On discharge:
T-99.3 HR-66 BP-104/50 RR-18 O2 sat-94%RA
Gen: comfortable
Card: RRR
Lungs: CTAB
Abd: soft, NT, ND, well healing prior ostomy site packed with 
dry gauze wicking w/ active draining of serous fluid. 
Surrounding skin w/ 4-5cm of raw, beefy red region. No active 
bleeding and no surrounding errythema. No active oozing
Ext: WWP, mild pitting edema bilat ___
 
Pertinent Results:
Labs: 

.
Imaging:
- ___ Pouchogram: No evidence of anastomotic leak

___ 11:40AM BLOOD WBC-8.4 RBC-3.80* Hgb-11.6* Hct-34.6* 
MCV-91 MCH-30.5 MCHC-33.5 RDW-15.2 Plt ___
___ 06:05AM BLOOD WBC-7.5 RBC-3.73* Hgb-11.3* Hct-33.9* 
MCV-91 MCH-30.4 MCHC-33.5 RDW-14.9 Plt ___
___ 05:20AM BLOOD WBC-8.1 RBC-3.54* Hgb-10.9* Hct-32.7* 
MCV-92 MCH-31.0 MCHC-33.5 RDW-14.5 Plt ___
___ 12:10PM BLOOD ___ PTT-25.9 ___
___ 12:10PM BLOOD Glucose-101* UreaN-32* Creat-1.2* Na-139 
K-3.5 Cl-104 HCO3-24 AnGap-15
___ 05:20AM BLOOD Glucose-91 UreaN-19 Creat-1.2* Na-142 
K-3.9 Cl-105 HCO3-29 AnGap-12
 
Brief Hospital Course:
Pt was admitted to the colorectal surgery service. Pt received 
pre-operative evaluation and wound care consult (pt known to 
Wound Care team), and the stoma was intubated with foley for 
decompression, and the peristomal area was opened to air with 
cream for irritation. On HD#2, pt went to the OR for takedown of 
ileostomy. The surgery was uncomplicated. Please see operative 
report for details. Wicking was packed in the prior ostomy site 
for improved drainage. Pt tolerated the procedure well and 
returned to the PACU and floor in stable condition. POD1 the 
wicking was replaced. Ostomy care nursing was consulted for 
management of the peristomal skin breakdown, recommending 
antifungal powder and moisturising cream daily. In the am of 
POD2 pt had a small BM and was passing flatus.
. 
Ms. ___ was discharged on post-operative day 2 in stable 
condition: afebrile, able to eat regular food, under adequate 
pain control with oral medications, and ambulating and urinating 
without difficulty.

 

 
Medications on Admission:
Medications: albuterol prn, fluticasone 110 2 puffs BID, Spiriva
18mcg daily, atenolol 50mg daily, HCTZ 25mg daily, irbesartan
300mg daily, wellbutrin ER 150mg BID, prozac 40mg daily,
levothyroxine 250mcg daily, prednisone 5mg daily, aspirin 325mg
daily, B vitamins, calcium, vitamin D

 
Discharge Medications:
1. irbesartan 150 mg Tablet Sig: Two (2) Tablet PO daily ().  
2. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
3. cholecalciferol (vitamin D3) 1,000 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO DAILY (Daily).  
5. atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for sob, 
wheezing.  
7. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
8. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
10. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO BID (2 times a day).  
11. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
12. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
13. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day). Capsule(s) 
15. hydromorphone 2 mg Tablet Sig: ___ Tablets PO every ___ 
hours as needed for pain for 7 days: Please take as written, do 
not drink alochol while taking this medication, do not drive a 
car while taking this medication. .
Disp:*45 Tablet(s)* Refills:*0*
16. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ileostomy related to surigcal intervention to manage complicated 
diverticulitis. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after takedown of your 
ileostomy. You have tolderated this procedure well, you are 
eating a regular diet, and your pain is controlled with 
medications by mouth. You are now ready to be discharged home. 
Please continue to monitor your bowel function closely, if you 
notice any of the following abdominal symptoms please call the 
colorectal surgery office or go to the emergency room if the 
symptoms are severe: nausea, vomiting, increased abdominal pain, 
increased andominal distension, constipation lasting more than 
one day, or inability to tolerate food or liquids. It is normal 
for you to have some loose stool after the ileostomy takedown, 
this should improve with time after intiating a regular diet. If 
you are having more than liquid bowel movements multiple times 
daily that do not improve please call the office for advice. 
Please monitor yourself for signs and symptoms of dehydration 
including: dizzines, fast heart rate, low blood pressure, fast 
heart rate, increased thirst, dry mouth, or extreme fatigue. 
Please continue to drink plenty of water and electrolyte drinks.

You have an open wound where the ileostomy once was. This no 
longer requires packing with gauze. You were seen as an 
inpatient by the wound/ostomy nurses and they have recommended 
the following regimen for wound care: cleanse the site with 
commercial wound cleanser, apply stomahesive powder to the site 
working it into the
irritation and dusting off the excess, apply critic aid clear 
anti-fungal ointment to the wound (skin breakdown around the old 
ostomy site, do not apply into small opening where ileostomy 
once was), place a folded 4x4 sterile gauze on the wound and lay 
the packing strip onto it cover the total site with 4x4 sterile 
gauze secure with cloth tape, and change at least twice daily 
and as needed wetness. You may shower, allow the warm soapy 
water to wash over the old stoma site and pat the area dry. 
Continue with the above wound care measures after your shower. 
You will be sent home with visiting nurses to check your wound, 
most likely, this will be for one or two visits. Please call and 
make an appointment to follow-up with ___ in her clinic, 
if this appointment is made for a ___, Dr. ___ will be 
able to see you at this time. 

You will be given a small amount of the pain medication Dilaudid 
(hydromorphone). Please take this medication as prescribed. Do 
not drink alcohol while taking this mediation. You may continue 
to take ibuprophen for minor pain as well. Please do not drink 
alcohol while taking any of these medications. Do not drive a 
car while taking narcotic pain medications. 

 
Followup Instructions:
___